US04352818
2.69 g of 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid are heated to 290°. After completion of the carbon dioxide evolution, the brown melt is cooled and taken up in chloroform. This solution is filtered over a silica gel column and evaporated. There is obtained 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 200°-201°.

reactant | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 2.69 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
reactant | carbon dioxide | C(=O)=O | CO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1)C)=O | C12H10ClN3O
